US09289419B2
Step-2: Ethyl 5-((tert-butoxycarbonyl)amino)-4-fluoropyrazolo[1,5-a]pyridine-3-carboxylate
K2CO3 (36.96 g, 267 mmol) was added to a solution of 1-amino-4-((tert-butoxycarbonyl)amino)-3-fluoropyridin-1-ium 2,4-dinitrophenolate (50 g, 121 mmol) in THF (500 mL) at 28° C. and continued stirring at same temperature for 30 min. Ethyl propiolate (14.3 g, 145 mmol) was added to above solution and stirring was continued at 28° C. for 16 hr. Reaction mixture was filtered to remove the salt, filtrate collected was diluted with EtOAc washed it with water followed by brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford crude. The crude obtained was purified by column purification (using 60-120 silicagel and 10% EtOAc in Hexane as eluant) to afford the title compound MS m/z 323.9 (M+H)

reactant | K2CO3 | 267 mmol, 36.96 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-amino-4-((tert-butoxycarbonyl)amino)-3-fluoropyridin-1-ium 2,4-dinitrophenolate | 121 mmol, 50 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])[O-].N[N+]1=CC(=C(C=C1)NC(=O)OC(C)(C)C)F
reactant | Ethyl propiolate | 145 mmol, 14.3 g | C(C#C)(=O)OCC | C5H6O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | Ethyl 5-((tert-butoxycarbonyl)amino)-4-fluoropyrazolo[1,5-a]pyridine-3-carboxylate | C(C)(C)(C)OC(=O)NC1=C(C=2N(C=C1)N=CC2C(=O)OCC)F | C15H18FN3O4
